US04129654
In 500 ml of ethyl ether is dissolved 57 g of methyl isocyanate and, then, 99 g of cyclohexylamine is added dropwise, whereupon crystals separate. The crystals are washed with ether. By the above procedure is obtained 105 g of N-methyl-N'-cyclohexylurea. melting point: 160°-161° C.

reactant | methyl isocyanate | 57 g | CN=C=O | C2H3NO
reactant | cyclohexylamine | 99 g | C1(CCCCC1)N | C6H13N
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | N-methyl-N'-cyclohexylurea | 105 g | CNC(=O)NC1CCCCC1 | C8H16N2O
